US06794397B2
6-Chloro-N-(2,4-dinitrophenyl)-3-pyridinecarboxamide
The title compound was prepared from 6-chloronicotinoyl chloride and 2,4-dinitroaniline and was obtained as a yellow solid as described in Example 1. 1H NMR (CDCl3): 11.69 (bs, 1H), 9.28-9.23 (m, 2H), 9.06-9.05 (m, 1H), 8.61-8.57 (m, 1H), 8.28-8.24 (m, 1H), 7.59-7.56 (m, 1H).

reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 2,4-dinitroaniline | [N+](=O)([O-])C1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5N3O4
product | 6-Chloro-N-(2,4-dinitrophenyl)-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C12H7ClN4O5
